US07910595B2
4-(4-Benzyloxy-phenoxy)-3-nitro-benzoic acid
A solution of 4-Benzyloxy-phenol (2.00 g, 0.01 mol) and potassium hydroxide (1.12 g, 0.02 mol) in anhydrous dimethylsulfoxide (20 mL) was stirred at room temperature for 10 minutes under a nitrogen atmosphere. A solution of 4-chloro-3-nitrobenzoic acid (2.01 g, 0.01 mol) in dimethylsulfoxide (5 mL) was added and the mixture heated to 120° for 1 hour. The reaction was then cooled in an ice bath and poured into 100 mL of ice-water. The mixture was acidified with concentrated HCl to pH 3 then the resultant solid was colleted by vacuum filtration, washed with water and dried in a vacuum oven to provide the title product (3.5 g, 96%).

reactant | 4-Benzyloxy-phenol | 0.01 mol, 2.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | potassium hydroxide | 0.02 mol, 1.12 g | [OH-].[K+]
reactant | 4-chloro-3-nitrobenzoic acid | 0.01 mol, 2.01 g | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | HCl | Cl | ClH
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 4-(4-Benzyloxy-phenoxy)-3-nitro-benzoic acid | 3.5 g, 96% | C(C1=CC=CC=C1)OC1=CC=C(OC2=C(C=C(C(=O)O)C=C2)[N+](=O)[O-])C=C1 | C20H15NO6
